US07452993B2
A solution of 3-[1-(2-methoxy-ethoxymethyl)-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester (573 mg, 1.28 mmol) in dichloromethane (25 mL) was cooled down to 0-5° C. and boron trifluoride etherate (0.8 ml, 6.4 mmol) was added. The mixture was slowly warmed to room temperature and stirred for 16 h. A yellow precipitate was formed was filtered off to afford 3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester (110 mg (0.29 mmol; 23% yield).

reactant | 3-[1-(2-methoxy-ethoxymethyl)-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester | 1.28 mmol, 573 mg | COC(C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCCOC)=O | C25H25N3O5
reactant | boron trifluoride etherate | 6.4 mmol, 0.8 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester | 23% yield | COC(C1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)=O | C21H17N3O3
